US04697005
a. 4,7-Difluoro-3-hydroxy-1(3H)-isobenzofuranone
To a -78° C. solution of the oxazoline derivative (7.95 g, 37.7 mmol), prepared from 2,5-difluorobenzoic acid in the usual manner, in THF (50 mL) was added over 15 min sec-BuLi (29 mL of 1.3 M solution). After 30 min, DMF (6.0 mL) was added, and the reaction was stirred at -78° C. for 2 hr. The reaction was tnen quenched with concentrated HCl (5 mL). Tne solvents were removed in vacuo, and the residue was taken up in 5 N HCl (5 mL) and heated on the steam bath overnight. After cooling to room temperature, the reaction mixture was extracted with EtOAc (3×200 mL). Standard workup gave a light brown solid (6.5 g, 93%, mp 125°-128° C.).

reactant | oxazoline | 37.7 mmol, 7.95 g | O1C=NCC1 | C3H5NO
reactant | 2,5-difluorobenzoic acid | FC1=C(C(=O)O)C=C(C=C1)F | C7H4F2O2
reactant | sec-BuLi | 1.3 M, 29 mL | [Li]C(C)CC
reactant | DMF | 6.0 mL | CN(C)C=O | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4,7-Difluoro-3-hydroxy-1(3H)-isobenzofuranone | 6.5 g, 93% | FC1=C2C(OC(C2=C(C=C1)F)=O)O | C8H4F2O3
